US06716851B2
N-[4-Methyl-3-(2-pyridin-4-yl-6-(trifluoromethyl)pyrimidin-4-ylamino)-phenyl]-4-morpholino-benzamide
The title compound was prepared from a mixture of 4-(5-amino-2-methylanilino)-2-(4-pyridinyl)-6-(trifluoromethyl)pyrimidine (10 mg, 0.029 mmol) and 4-morpholinobenzoic acid (7 mg, 0.035 mmol) similar to Example 136 and isolated as a white solid (4 mg, 26%). 1H NMR (CDCl3): 8.76 (dd, J=1.8, 4.2 Hz, 2H), 8.29 (dd, J=1.8, 4.2 Hz, 2H), 7.99 (s, 1H), 7.95 (s, 1H), 7.82 (d, J=9.0 Hz, 2H), 7.37 (dd, J=1.8, 8.1 Hz, 1H), 7.31 (d, J=8.7 Hz, 1H), 7.07 (s, 1H), 6.93 (d, J=9.0 Hz, 2H), 6.73 (s, 1H), 3.89-3.86 (m, 4H), 3.31-3.28 (m, 4H), 2.28 (s, 3H).

reactant | 4-(5-amino-2-methylanilino)-2-(4-pyridinyl)-6-(trifluoromethyl)pyrimidine | 0.029 mmol, 10 mg | NC=1C=CC(=C(NC2=NC(=NC(=C2)C(F)(F)F)C2=CC=NC=C2)C1)C | C17H14F3N5
reactant | 4-morpholinobenzoic acid | 0.035 mmol, 7 mg | O1CCN(CC1)C1=CC=C(C(=O)O)C=C1 | C11H13NO3
product | N-[4-Methyl-3-(2-pyridin-4-yl-6-(trifluoromethyl)pyrimidin-4-ylamino)-phenyl]-4-morpholino-benzamide | CC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)N1CCOCC1)=O)NC1=NC(=NC(=C1)C(F)(F)F)C1=CC=NC=C1 | C28H25F3N6O2
